* D:\MyBookLive.D\SCORVITECH\Documents SCORVITECH\RAPPORTS\Figure\carte mere -V2\KICAD-V2\Mere_Figure\Mere_Figure.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: 30/03/2017 18:06:21

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
P101  /Master-12V GND Master-12V		
P107  /Raspberry-PI3/Shut-Canon GND 2Pts-shutter		
P108  /Raspberry-PI3/Entrée-BP GND Bouton Poussoir		
P106  /Alim6V5-5A/6V5Flash GND 2Pts-Flash		
P110  /Master-12V Net-_D101-Pad2_ GACHE		
P111  /Alim24-V2A5/Print24V GND 24V-PRINT		
D101  /Master-12V Net-_D101-Pad2_ BAS16		
Q101  /Raspberry-PI3/Gache GND Net-_D101-Pad2_ Q_NMOS_GSD		
R101  /Raspberry-PI3/Gache GND 1Meg		
P104  /Puissance/Com2 /Puissance/Repos2 /Puissance/Travail2 Secteur		
P103  /Puissance/Com1 /Puissance/Repos1 /Puissance/Travail1 Secteur		
P105  /7V4-2A/7V4 GND 2Pts-CANON 1200D		
P109  /Master-12V GND HT910-E		
P102  /230Detect/Phase-line /230Detect/Neutre-line detection-230V		
* Sheet Name: /Alim5V-2A5/
C201  /Master-12V GND 22u 2mo		
R209  /Alim5V-2A5/5VRpi Net-_R209-Pad2_ 100k		
C208  Net-_C208-Pad1_ GND 620p		
C209  /Alim5V-2A5/5VRpi Net-_C209-Pad2_ 6p10 25v		
R210  Net-_C209-Pad2_ /Alim5V-2A5/5VRpi 523k		
R211  GND Net-_C209-Pad2_ 100k		
C210  /Alim5V-2A5/5VRpi GND 47uF 3mo		
U202  Net-_C207-Pad1_ Net-_C207-Pad1_ GND /Alim5V-2A5/5VRpi /Alim5V-2A5/5VRpi Net-_C209-Pad2_ Net-_R209-Pad2_ Net-_C208-Pad1_ GND TPS82130		
U201  Net-_R203-Pad1_ Net-_C202-Pad1_ Net-_R201-Pad1_ LM317_SOT223		
R203  Net-_R203-Pad1_ Net-_C202-Pad1_ 523k		
R204  GND Net-_R203-Pad1_ 523k		
C202  Net-_C202-Pad1_ GND 47uF 3mo		
C203  Net-_C202-Pad1_ Net-_C203-Pad2_ 10F		
C204  Net-_C203-Pad2_ Net-_C204-Pad2_ 10F		
C205  Net-_C204-Pad2_ Net-_C205-Pad2_ 10F		
C206  Net-_C205-Pad2_ GND 10F		
R205  Net-_C203-Pad2_ Net-_C202-Pad1_ 10k		
R206  Net-_C204-Pad2_ Net-_C203-Pad2_ 10k		
R207  Net-_C205-Pad2_ Net-_C204-Pad2_ 10k		
R208  GND Net-_C205-Pad2_ 10k		
D201  Net-_C207-Pad1_ Net-_D201-Pad2_ D_ALT		
D202  Net-_C207-Pad1_ Net-_C202-Pad1_ D_ALT		
C207  Net-_C207-Pad1_ GND 47uF 3mo		
R202  Net-_D201-Pad2_ /Master-12V 00		
R201  Net-_R201-Pad1_ /Master-12V 00		
* Sheet Name: /Alim6V5-5A/
Q301  /Alim6V5-5A/ShdnFlash GND /Alim6V5-5A/Enable Q_NMOS_GSD		
R305  /Alim6V5-5A/ShdnFlash GND 1Meg		
C306  Net-_C306-Pad1_ GND 51p		
R306  Net-_C306-Pad1_ Net-_C304-Pad1_ 3k92		
C304  Net-_C304-Pad1_ GND 9n1		
C303  Net-_C303-Pad1_ GND 43p		
C302  Net-_C301-Pad1_ GND 4u7		
R308  Net-_C308-Pad2_ GND 10k		
R307  /Alim6V5-5A/6V5Flash Net-_C308-Pad2_ 97k6		
C305  Net-_C305-Pad1_ Net-_C305-Pad2_ 100n		
L301  Net-_C305-Pad1_ /Alim6V5-5A/6V5Flash 2u7 12mo		
C309  /Alim6V5-5A/6V5Flash GND 22u 10v		
U301  Net-_R304-Pad1_ GND GND Net-_C301-Pad1_ Net-_C301-Pad1_ Net-_C303-Pad1_ Net-_C308-Pad2_ Net-_C306-Pad1_ Net-_C307-Pad1_ /Alim6V5-5A/Enable Net-_C305-Pad1_ Net-_C305-Pad1_ Net-_C305-Pad2_ ? GND TPS54622		
R303  /Alim6V5-5A/Enable GND 37k		
R302  Net-_C303-Pad1_ /Alim6V5-5A/Enable 105k		
C301  Net-_C301-Pad1_ GND 22u		
R304  Net-_R304-Pad1_ GND 53k6		
C308  /Alim6V5-5A/6V5Flash Net-_C308-Pad2_ 22p		
C307  Net-_C307-Pad1_ GND 2n7		
R301  Net-_C301-Pad1_ /Master-12V 00		
* Sheet Name: /Alim24-V2A5/
C404  Net-_C403-Pad1_ Net-_C404-Pad2_ 27n		
C403  Net-_C403-Pad1_ GND 1n5		
R405  Net-_C405-Pad1_ GND 8mo-1W		
C406  /Alim24-V2A5/Print24V GND 82u-20mo		
C408  /Alim24-V2A5/Print24V GND 100n 50v		
R406  /Alim24-V2A5/Print24V Net-_R406-Pad2_ 18k2		
R407  Net-_R406-Pad2_ GND 1k		
L401  Net-_C401-Pad1_ Net-_D401-Pad1_ SRP1270-100M		
D401  Net-_D401-Pad1_ Net-_D401-Pad1_ /Alim24-V2A5/Print24V MBRD835LT4G		
Q401  Net-_D401-Pad1_ Net-_Q401-PadG_ Net-_C405-Pad1_ CSD17579Q3A		
R404  Net-_R404-Pad1_ Net-_C405-Pad1_ 100		
C405  Net-_C405-Pad1_ GND 10n		
R402  Net-_C404-Pad2_ GND 100		
C402  Net-_C401-Pad1_ GND 100n		
C401  Net-_C401-Pad1_ GND 47u 2mo		
R403  Net-_R403-Pad1_ GND 100		
C407  /Alim24-V2A5/Print24V GND 82u-20mo		
R401  Net-_C401-Pad1_ /Master-12V 00		
U401  Net-_R404-Pad1_ Net-_C403-Pad1_ Net-_R406-Pad2_ GND GND Net-_Q401-PadG_ Net-_R403-Pad1_ Net-_C401-Pad1_ LM3488		
* Sheet Name: /Raspberry-PI3/
U501  ? ? ? ? ? ? ? ? ? ? ? ? ? ? ? ? ? ? ? ? ? ? ? ? ? ? ? ? ? ? ? ? ? ? ? ? ? ? ? ? RaspPi3		
U502  +3V3 Net-_C501-Pad2_ /Raspberry-PI3/SDA ? /Raspberry-PI3/SCL GND /Raspberry-PI3/BP ? GND ? ? ? ? GND ? ? ? ? ? GND ? ? ? ? GND ? ? ? /Raspberry-PI3/Shutter GND /Raspberry-PI3/230V1 /Raspberry-PI3/Gache /Raspberry-PI3/RST GND /230Detect/Detect-Line /Raspberry-PI3/230V2 /Alim6V5-5A/ShdnFlash ? GND ? Con_RaspPi3		
U503  +3V3 Net-_C502-Pad1_ Net-_C503-Pad2_ GND /Raspberry-PI3/RST /Raspberry-PI3/SDA /Raspberry-PI3/SCL GND DS1302		
R504  +3V3 /Raspberry-PI3/SCL 100k		
R505  +3V3 /Raspberry-PI3/SDA 100k		
R506  +3V3 /Raspberry-PI3/RST 100k		
BT501  GND Net-_BT501-Pad2_ 3V-Lit		
C504  Net-_BT501-Pad2_ +3V3 1uF		
Y501  Net-_C502-Pad1_ Net-_C503-Pad2_ 32Khz		
C503  GND Net-_C503-Pad2_ 6p		
C502  Net-_C502-Pad1_ GND 6p		
Q501  /Raspberry-PI3/Shutter GND /Raspberry-PI3/Shut-Canon Q_NMOS_GSD		
R503  /Raspberry-PI3/Shutter GND 1Meg		
R502  /Raspberry-PI3/Entrée-BP /Raspberry-PI3/BP 300R		
D501  /Raspberry-PI3/BP GND Zener-3V3		
P501  /Alim5V-2A5/5VRpi GND alim		
C501  GND Net-_C501-Pad2_ 1u		
R501  Net-_C501-Pad2_ /230Detect/Detect-Line 47k		
* Sheet Name: /7V4-2A/
C606  Net-_C606-Pad1_ GND 110p		
R605  Net-_C606-Pad1_ Net-_C604-Pad1_ 2k26		
C604  Net-_C604-Pad1_ GND 56n		
C603  Net-_C603-Pad1_ GND 43p		
C602  Net-_C601-Pad1_ GND 4u7		
R607  Net-_C608-Pad2_ GND 10k		
R606  /7V4-2A/7V4 Net-_C608-Pad2_ 113k		
C605  Net-_C605-Pad1_ Net-_C605-Pad2_ 100n		
L601  Net-_C605-Pad1_ /7V4-2A/7V4 6u8 40mo		
C609  /7V4-2A/7V4 GND 22u 10v		
U601  Net-_R604-Pad1_ GND GND Net-_C601-Pad1_ Net-_C601-Pad1_ Net-_C603-Pad1_ Net-_C608-Pad2_ Net-_C606-Pad1_ Net-_C607-Pad1_ /7V4-2A/Enable Net-_C605-Pad1_ Net-_C605-Pad1_ Net-_C605-Pad2_ ? GND TPS54622		
R603  /7V4-2A/Enable GND 37k		
R602  Net-_C603-Pad1_ /7V4-2A/Enable 105k		
C601  Net-_C601-Pad1_ GND 22u		
R604  Net-_R604-Pad1_ GND 53k6		
C608  /7V4-2A/7V4 Net-_C608-Pad2_ 22p		
C607  Net-_C607-Pad1_ GND 2n7		
R601  Net-_C601-Pad1_ /Master-12V 00		
* Sheet Name: /Puissance/
Q702  /Raspberry-PI3/230V1 GND Net-_D702-Pad2_ Q_NMOS_GSD		
U702  /Puissance/Com1 relais_1RT		
D702  /Master-12V Net-_D702-Pad2_ 1N9001		
R702  /Raspberry-PI3/230V1 GND 1Meg		
C702  /Master-12V GND 10u		
Q701  /Raspberry-PI3/230V2 GND Net-_D701-Pad2_ Q_NMOS_GSD		
U701  /Puissance/Com2 relais_1RT		
D701  /Master-12V Net-_D701-Pad2_ 1N9001		
R701  /Raspberry-PI3/230V2 GND 1Meg		
C701  /Master-12V GND 10u		
* Sheet Name: /230Detect/
R803  Net-_C801-Pad1_ Net-_C801-Pad2_ 100k-1W		
C802  Net-_C801-Pad1_ Net-_C802-Pad2_ 100n		
C801  Net-_C801-Pad1_ Net-_C801-Pad2_ 33n-X2-300V		
D801  Net-_C801-Pad1_ Net-_C802-Pad2_ 1N4001		
C803  /230Detect/Detect-Line GND 10u-5V		
R801  Net-_C801-Pad2_ /230Detect/Phase-line 00		
R802  Net-_C802-Pad2_ /230Detect/Neutre-line 00		
U801  Net-_C801-Pad1_ Net-_C802-Pad2_ GND /230Detect/Detect-Line TCLT1000		

.end
